US06870978B2
4-(6-Hydroxyhexoxy)biphenyl (6)
To a 4 L three-necked round bottom flask fitted with a mechanical stirrer and a condenser were added 125.0 g of 4-hydroxybiphenyl (0.734 mol), 154.5 g of 6-bromo-1-hexanol (0.853 mol), 690 g of potassium carbonate, and 2500 ml of acetone. The reaction mixture was stirred and heated at reflux for 4 days and then filtered. The acetone was removed on a rotary evaporator, the residue was recrystallized from a mixture of ethyl acetate and hexanes to afford 188 g of white crystals (95%): mp 92-94° C.; 1H-NMR (CDCl3) δ (ppm) 1.30-1.84 (m, 8H), 3.65 (t, 2H), 3.99 (t, 2H), 6.98 (d, 2H), 7.32-7.56 (m, 7H).

reactant | 4-hydroxybiphenyl | 0.734 mol, 125.0 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | 6-bromo-1-hexanol | 0.853 mol, 154.5 g | BrCCCCCCO | C6H13BrO
reactant | potassium carbonate | 690 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2500 ml | CC(=O)C | C3H6O
product | 4-(6-Hydroxyhexoxy)biphenyl | 188 g, 95% | OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C18H22O2
